US07008950B1
Methyl α-[[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-yl]oxy]phenylacetate
Using 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol and methyl α-bromophenylacetate, the title compound was obtained in the same manner as in Example 1. This was oily.

reactant | 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)O)C)(C)C | C22H28O2
reactant | methyl α-bromophenylacetate | BrC(C(=O)OC)C1=CC=CC=C1 | C9H9BrO2
product | Methyl α-[[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-yl]oxy]phenylacetate | Yield: 82% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)OC(C(=O)OC)C2=CC=CC=C2)C)(C)C | C31H36O4
